US06297283B1
Preparation of N,N′-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-N,N′-diphenyl-1,3-diaminopropane:
A solution of 5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl chloride in methylene chloride (3 ml) was added dropwise to a solution of 68 mg (0.30 mmol) of N,N′-diphenyl-1,3-diaminopropane in pyridine (3 ml) with stirring in an ice bath. After completion of the addition, the mixture was stirred for an additional 1 hour, and a 5% aqueous solution (5 ml) of sodium hydrogencarbonate was added to the reaction mixture to conduct extraction with chloroform. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil (278 mg) was purified by column chromatography on silica gel, thereby obtaining 126 mg (yield: 59%) of the title compound as a colorless amorphous powder.

reactant | 5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl chloride | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)Cl | C14H15ClO4
reactant | N,N′-diphenyl-1,3-diaminopropane | 0.30 mmol, 68 mg | C1(=CC=CC=C1)NCCCNC1=CC=CC=C1 | C15H18N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N,N′-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-N,N′-diphenyl-1,3-diaminopropane | 126 mg, yield: 59% | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)N(CCCN(C1=CC=CC=C1)C(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC=CC=C1 | C43H46N2O8
